US08106149B2
Into a 2.5 liter SUS separable flask equipped with a reflux condenser and a stirrer, 500.0 g of pure water, 399.3 g of iminodiacetic acid (IDA) and 500.0 g of a 48% aqueous solution of sodium hydroxide (hereinafter, abbreviated as 48% NaOH) were charged, and a temperature of the mixture was adjusted to 55° C. while stirring the mixture. Then, 342.4 g of allyl glycidyl ether (AGE) was slowly added dropwise to a reaction system maintained at 55° C. over two hours while stirring. On completion of adding dropwise, the reaction solution was further aged at 55° C. for 1 hour to produce a 50% aqueous solution of AGE-IDA (hereinafter, abbreviated as 50% AGE-IDA).

reactant | iminodiacetic acid | 399.3 g | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | allyl glycidyl ether | 342.4 g | C(C1CO1)OCC=C | C6H10O2
solvent | water | 500.0 g | O | H2O
product | AGE IDA | C(C1CO1)OCC=C.N(CC(=O)O)CC(=O)O | InChI=1S/C6H10O2.C4H7NO4/c1-2-3-7-4-6-5-8-6;6-3(7)1-5-2-4(8)9/h2,6H,1,3-5H2;5H,1-2H2,(H,6,7)(H,8,9)
